US04252806
PROCEDURE 2. 1-(3-Chlorophenyl)-4-(3-chloropropyl)piperazine
To a solution fo 7.36 g. (0.184 mole) of sodium hydroxide in 75 ml. of water and 75 ml. of acetone there is added 17.16 g. (0.074 mole) of 1-(3-chlorophenyl)piperazine hydrochloride and 11.59 g. (0.074 mole) of 1-bromo-3-chloropropane, and the resulting mixture is stirred at 27° for 18 hrs. The organic layer is then separated and concentrated to an oil under reduced pressure. The oil is treated with hot (85°) 6 N HCl until solution is complete, and the resulting solution is filtered and stored at 5° for 18 hrs. The precipitate which forms is collected on a filter to afford 17.52 g. (87%) of the hydrochloride salt of the product, m.p. 198°-200°. Concentration of the mother liquor under reduced pressure and recrystallization of the residue from water affords an additional 1.82 g (9%) of product, m.p. 196°-198°.

reactant | sodium hydroxide | 0.184 mole | [OH-].[Na+]
reactant | water | O | H2O
reactant | 1-(3-chlorophenyl)piperazine hydrochloride | 0.074 mole | Cl.ClC=1C=C(C=CC1)N1CCNCC1
reactant | 1-bromo-3-chloropropane | 0.074 mole | BrCCCCl | C3H6BrCl
solvent | acetone | CC(=O)C | C3H6O
product | 1-(3-Chlorophenyl)-4-(3-chloropropyl)piperazine | 1.82 g, 9% | ClC=1C=C(C=CC1)N1CCN(CC1)CCCCl | C13H18Cl2N2
